US04515946
6,11-Dihydro-N-(1-hydroxy-2-methyl-2-propyl)-11-oxodibenz[b,e]oxepin-2-yl acetamide
A water cooled stirred suspension of 13.41 g (0.05 mol) of 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-yl acetic acid, 50 ml of sieve-dried methylene chloride and three drops of dimethylformamide was treated for a few minutes with 6.54 g (0.055 mol) of thionyl chloride. After total addition the suspension was stirred 15 minutes with cooling and was then intermittently warmed until the evolution of HCl ceased. A stirred ice water chilled solution of 13.37 g (0.15 mol) of 2-amino-2-methyl-1-propanol and 50 ml of sieve-dried methylene chloride was treated dropwise over 0.5 hour with the acid chloride solution. After total addition the resultant suspension was stirred with cooling for 20 minutes and was then stirred 1.5 hours at ambient temperature. The suspension was vacuum filtered and the filtrate was washed with 100 ml each of 5% HCl, water, and 5% Na2CO3. The organic phase was dried by extracting with 500 ml of saturated NaCl solution and then over anhydrous Na2SO4. The resultant mixture was filtered and the filtrate was concentrated to an oil which was dried by azeotropic distillation of absolute ethanol to afford 14.3 g (84.3%) of a crude product. Two recrystallizations from benzene and a final recrystallization from isopropanol afforded 7.0 g (41.2%) of crystals of 6,11-dihydro-N-(1-hydroxy-2-methyl-2-propyl)-11-oxodibenz[b,e]oxepin-2-yl acetamide m.p. 132°-134° C.

reactant | 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-yl acetic acid | 0.05 mol, 13.41 g | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CC(=O)O | C16H12O4
reactant | thionyl chloride | 0.055 mol, 6.54 g | S(=O)(Cl)Cl | Cl2OS
reactant | HCl | Cl | ClH
reactant | 2-amino-2-methyl-1-propanol | 0.15 mol, 13.37 g | NC(CO)(C)C | C4H11NO
catalyst | dimethylformamide | three drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 6,11-Dihydro-N-(1-hydroxy-2-methyl-2-propyl)-11-oxodibenz[b,e]oxepin-2-yl acetamide | 7.0 g, 41.2% | OCC(C)(C)NC(CC1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1)=O | C20H21NO4
